Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4])[C:11]([H:12])([H:13])[H:14],7.3523772635899975
[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.97955591664
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[H:4],2.37442467267
[H:1][O:2][C:3][O:10][C:8](=[C:4]=[C:5]([H:6])[H:7])[H:9]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])[O:10]1,0.455030986039
[H:1]/[C:2](=[C:3]1/[O:4][C:5][C:6]1([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:5]\[O:4][C:3]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.76154796262
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2]/[C:3]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],4.42697350353
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],4.27982537914
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])[H:14],3.806803909080002
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.92915021376
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],-4.93027898541
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.60903706706
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8].[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-4.546859459069998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8][C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],5.8310665331900005
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.83270694809
[C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2][C:3](=[C:4]([O:5][H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.30997781425
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],4.08334219981
[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.28669959604
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3]([H:4])/[C:5]=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],3.96411150462
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-1.6624803943900002
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1],4.1362245606800006
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]#[C:10][H:11].[H:9],2.21626455232
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8].[O:9]=[C:10]([H:11])[H:12],1.61322793462
[H:9].[O:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.93668574771
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10].[H:8],1.7210343673
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:8][H:9].[H:7],1.91828068473
[H:1][C:2][C:3]1=[C:4][C:5]([H:6])=[C:7]([H:8])[C:9]1[H:10]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:9](=[C:7][H:8])[H:10],1.52556309637
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:1][O:2],5.4002206995
[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-6.43986266255
[H:14].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.67530572181
